US03943141
a. 1(2-Dimethylaminoethyl)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester
1-[2-(Dibenzylamino)ethyl]-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester, m.p. 170°-174° (72 %) (2-Dibenzylaminoethyl bromide).

reactant | 1-[2-(Dibenzylamino)ethyl]-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | C(C1=CC=CC=C1)N(CCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)OCC)CC1=CC=CC=C1 | C28H29N3O3
reactant | 2-Dibenzylaminoethyl bromide | C(C1=CC=CC=C1)N(CCBr)CC1=CC=CC=C1 | C16H18BrN
product | 1(2-Dimethylaminoethyl)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | CN(CCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)OCC)C | C16H21N3O3
